US04493843
2-(n-Undecyl)indole-5-carboxylic acid (45 g) was added to a mixture of tetrahydrofuran (250 ml), glacial acetic acid (50 ml) and perchloric acid (25 ml of strength 70% w/v). The mixture was hydrogenated over palladium on charcoal (5% w/w, 5 g) at room temperature and atmospheric pressure. When hydrogen uptake had ceased (after 6 hours), the mixture was filtered through diatomaceous earth, and the residue was washed with tetrahydrofuran (2×50 ml). The combined filtrates were adjusted to pH 4 by treatment with an aqueous solution of sodium hydroxide (strength 50% w/v). The mixture was diluted with water (200 ml) and was extracted with diethyl ether (3×200 ml). The diethyl ether solution was dried over magnesium sulphate and, on evaporation in vacuo gave a solid. The solid was dissolved in diethyl ether (100 ml) and the solution was treated with an excess of a solution of hydrogen chloride in ethanol (strength 38% w/v, 30 ml). The mixture was diluted with diethyl ether (1000 ml) and a solid was collected. The solid was recrystallised from isopropanol to give (RS)-2-(n-undecyl)-indoline-5-carboxylic acid hydrochloride (27.6 g), in the form of a white solid m.p. 175°-179° C. (with decomposition).

reactant | 2-(n-Undecyl)indole-5-carboxylic acid | 45 g | C(CCCCCCCCCC)C=1NC2=CC=C(C=C2C1)C(=O)O | C20H29NO2
reactant | perchloric acid | 25 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | hydrogen | [H][H] | H2
reactant | hydrogen chloride | Cl | ClH
catalyst | palladium on charcoal | 5 g | [Pd] | Pd
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | diethyl ether | 1000 ml | C(C)OCC | C4H10O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | (RS)-2-(n-undecyl)-indoline-5-carboxylic acid hydrochloride | 27.6 g | Cl.C(CCCCCCCCCC)C1NC2=CC=C(C=C2C1)C(=O)O | InChI=1S/C20H31NO2.ClH/c1-2-3-4-5-6-7-8-9-10-11-18-15-17-14-16(20(22)23)12-13-19(17)21-18;/h12-14,18,21H,2-11,15H2,1H3,(H,22,23);1H
